US07462634B2
ii. Preparation of (6-aminopyridin-2-yl)methanol
To a solution of dioxane (15 mL) was added N-[6-(1-hydroxyethyl)pyridin-2-yl]-2,2-dimethylpropanamide (1.5 g, 7.2 mmol) and aqueous hydrochloric acid (6N, 15 mL) and the mixture was stirred at 90° C. for 14 h. The solution was cooled 0° C., triturated with diethyl ether (2×30 mL) and the aqueous layer was neutralized using sodium hydroxide to approximately pH 8. The mixture was diluted with chloroform/IPA (10:1, 50 mL). The mixture was washed with saturated brine solution (2×50 mL). The organic layer was dried over anhydrous Na2SO4, filtered, and concentrated to afford the above-titled intermediate as a white solid (0.86 g, 96%). HPLC: Rt 0.628 min. (99.5% area). 1H NMR (400 MHz, CDCl3), δ: 7.48 (t, J=7.4 Hz, 1H), 6.66 (d, J=7.3 Hz, 1H), 6.50 (d, J=8.4 Hz, 1H), 4.58 (s, 2H), 4.23 (bs, 2H). LCMS (ESI): m/z: 125.2.

reactant | N-[6-(1-hydroxyethyl)pyridin-2-yl]-2,2-dimethylpropanamide | 7.2 mmol, 1.5 g | OC(C)C1=CC=CC(=N1)NC(C(C)(C)C)=O | C12H18N2O2
reactant | hydrochloric acid | 6N, 15 mL | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | (6-aminopyridin-2-yl)methanol | 0.86 g, 96% | NC1=CC=CC(=N1)CO | C6H8N2O
